### PR TITLE
[ Data.List ] function reverse-append _ʳ++_, simplify proofs about reverse

### PR DESCRIPTION
**Pull request by andreasabel**
The properties are much easier to prove for the generalization of
reverse to reverse-append.

Should be backwards compatible.

In the future, we could deprecate `reverseAcc` in favor of `_ʳ++_` (reverse-append).

### CODE REVIEW

File: src/Data/List/Relation/Binary/Equality/Setoid.agda [hunk 1]
```diff
@@ -121,7 +121,12 @@ module _ {P : Pred A p} (P? : U.Decidable P) (resp : P Respects _≈_)
   filter⁺ xs≋ys = PW.filter⁺ P? P? resp (resp ∘ sym) xs≋ys
 
 ------------------------------------------------------------------------
--- filter
+-- reverse
+
+infixr 5 _ʳ++⁺_
+
+_ʳ++⁺_ : ∀{xs xs′ ys ys′} → xs ≋ xs′ → ys ≋ ys′ → xs ʳ++ ys ≋ xs′ ʳ++ ys′
```
Comment (MatthewDaggitt) [inline src/Data/List/Relation/Binary/Equality/Setoid.agda]: The corresponding proof for `++` doesn't use infix notation so I'm not sure this one should either. If we use copy `++` in using `ws xs ys zs` as variables as well then it also fits within the line length!

File: src/Data/List/Relation/Binary/Pointwise.agda [hunk 2]
```diff
@@ -243,6 +243,14 @@ module _ {R : REL A B ℓ} where
   reverseAcc⁺ rs′ []       = rs′
   reverseAcc⁺ rs′ (r ∷ rs) = reverseAcc⁺ (r ∷ rs′) rs
 
+  infixr 5 _ʳ++⁺_
+
+  _ʳ++⁺_ : ∀ {as bs as′ bs′} →
```
Comment (MatthewDaggitt) [inline src/Data/List/Relation/Binary/Pointwise.agda]: Again probably more consistent to avoid using the infix notation. (And in the various other binary relation modules)

File: src/Data/List/Properties.agda [hunk 3]
```diff
@@ -764,84 +764,152 @@ module _ {P : A → Set p} (P? : Decidable P) where
   ...  | no ¬Px = P.cong (Prod.map id (x ∷_)) (partition-defn xs)
 
 ------------------------------------------------------------------------
--- reverse
+-- reverse is an involution in the list monoid
 
 module _ {a} {A : Set a} where
```
Comment (MatthewDaggitt) [inline src/Data/List/Properties.agda]: I know this isn't your code, but might as well remove this anonymous module while we're here :smile:

File: src/Data/List/Properties.agda [hunk 4]
```diff
@@ -764,84 +764,152 @@ module _ {P : A → Set p} (P? : Decidable P) where
...
-                       reverse (xs ++ ys) ≡ reverse ys ++ reverse xs
-  reverse-++-commute []       ys = P.sym (++-identityʳ _)
-  reverse-++-commute (x ∷ xs) ys = begin
-    reverse (x ∷ xs ++ ys)               ≡⟨ unfold-reverse x (xs ++ ys) ⟩
-    reverse (xs ++ ys) ++ [ x ]          ≡⟨ P.cong (_++ [ x ]) (reverse-++-commute xs ys) ⟩
-    (reverse ys ++ reverse xs) ++ [ x ]  ≡⟨ ++-assoc (reverse ys) _ _ ⟩
-    reverse ys ++ (reverse xs ++ [ x ])  ≡⟨ P.sym $ P.cong (reverse ys ++_) (unfold-reverse x xs) ⟩
-    reverse ys ++ reverse (x ∷ xs)       ∎
-    where open P.≡-Reasoning
+  ʳ++=reverse++ : ∀ (xs : List A) {ys} → xs ʳ++ ys ≡ reverse xs ++ ys
```
Comment (MatthewDaggitt) [inline src/Data/List/Properties.agda]: I'm aware it's not quite as meaningful, but to be consistent with the naming conventions used in the rest of the file we should probably call this `ʳ++-defn`

Comment (andreasabel) [reply src/Data/List/Properties.agda]: Ok!

File: src/Data/List/Properties.agda (hunk 3 above)
Comment (andreasabel) [reply src/Data/List/Properties.agda]: This module allows me to use `open` without polluting the namespace for code further done.  Thus, I think it is good to keep it!

File: src/Data/List/Relation/Binary/Equality/Setoid.agda (hunk 1 above)
Comment (andreasabel) [reply src/Data/List/Relation/Binary/Equality/Setoid.agda]: Isn't `++` off here?  I'd expect that if we have an infix operator like `++`, then its predicate/relation lifting is also an infix operator.  Examples of this is `Data.List.All._::_` which is the predicate lifting of `Data.List._::_`.

File: src/Data/List/Relation/Binary/Pointwise.agda (hunk 2 above)
Comment (andreasabel) [reply src/Data/List/Relation/Binary/Pointwise.agda]: This one is the relation lifting of `_^r++_` to `Pointwise`.  I think infix makes sense here.

File: src/Data/List/Properties.agda (hunk 3 above)
Comment (MatthewDaggitt) [reply src/Data/List/Properties.agda]: Fair enough :+1:

File: src/Data/List/Relation/Binary/Equality/Setoid.agda (hunk 1 above)
Comment (MatthewDaggitt) [reply src/Data/List/Relation/Binary/Equality/Setoid.agda]: > Isn't ++ off here?

Hmm well if it is off, it's off everywhere else in the library: 
- [Any](https://github.com/agda/agda-stdlib/blob/c82ed45d6b6b1322b2b1f55c52edd1a38ab56926/src/Data/List/Relation/Unary/Any/Properties.agda#L331)
- [All](https://github.com/agda/agda-stdlib/blob/c82ed45d6b6b1322b2b1f55c52edd1a38ab56926/src/Data/List/Relation/Unary/All/Properties.agda#L374)
- [Unique](https://github.com/agda/agda-stdlib/blob/c82ed45d6b6b1322b2b1f55c52edd1a38ab56926/src/Data/List/Relation/Unary/Unique/Setoid/Properties.agda#L46)
- [Permutation](https://github.com/agda/agda-stdlib/blob/c82ed45d6b6b1322b2b1f55c52edd1a38ab56926/src/Data/List/Relation/Binary/Permutation/Propositional/Properties.agda#L86)
- [Prefix](https://github.com/agda/agda-stdlib/blob/c82ed45d6b6b1322b2b1f55c52edd1a38ab56926/src/Data/List/Relation/Binary/Prefix/Heterogeneous/Properties.agda#L72)
- [Pointwise](https://github.com/agda/agda-stdlib/blob/c82ed45d6b6b1322b2b1f55c52edd1a38ab56926/src/Data/Vec/Relation/Binary/Pointwise/Inductive.agda#L159) (for Vec)
- etc. (at least 5 more places)

I'd suggest if you do want to change it, then the best course of action is to make this PR consistent with the current form, and then open a new PR which changes it **everywhere** in the library.

File: src/Data/List/Relation/Binary/Pointwise.agda (hunk 2 above)
Comment (MatthewDaggitt) [reply src/Data/List/Relation/Binary/Pointwise.agda]: See comment above.

File: src/Data/List/Relation/Binary/Equality/Setoid.agda (hunk 1 above)
Comment (andreasabel) [reply src/Data/List/Relation/Binary/Equality/Setoid.agda]: Seems fair for the sake of conservativity.

I guess this decision (infix or not) is also a topic for the style guide...
